US04105681
9-(4-Methoxy-2,3,6-Trimethylphenyl)-3,7-Dimethyl-2,4,6,8-Nona-tetraen-1-ol
In a 5-liter, round bottom flask provided with a stirrer, low temperature thermometer, an inlet for dry nitrogen, a gas outlet, and a dropping funnel connected to a mineral oil bubbler, were placed 150 g (0.436 moles) of 9-(4-methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-2,4,6,8-nonatetraenoic acid ethyl ester and 800 ml of toluene. The contents were stirred until the solids had dissolved, then by means of a dry ice bath, the internal temperature was lowered to -60° C., at which temperature 780 ml of a 25% solution of diisobutylaluminum (DIBAL) hydride in toluene (1.155 moles) was added dropwise. The initially yellow solution or suspension gradually deepened in color and after all the DIBAL had been added, the reaction mixture consisted of a clear, somewhat viscous deep red orange solution. After stirring for one hour, the cooling bath was lowered and the internal temperature allowed to rise to -40° C., at which temperature, 50 ml of a 50% aqueous methanol solution was added dropwise with intermittent cooling so that when the addition was complete the temperature was approximately 10° C. At this point, 140 ml of a saturated solution of sodium sulfate was added dropwise. Allowing the temperature to gradually rise to 25° C. Toward the end of the addition, aluminum hydroxide began to precipitate with the evolution of heat. After stirring for a few minutes, 800 ml of chloroform was added and the suspension stirred for ten minutes. The precipitate was removed by filtration on a twelve-inch Buchner funnel through a layer of filter aid, then washed four times with 500 ml portions of chloroform. The combined filtrates were washed successively with 600 ml of water, 600 ml of water containing 10 ml of 3 N hydrochloric acid, 600 ml of saturated sodium bicarbonate solution, and 600 ml of water, then dried over anhydrous sodium sulfate. Distillation of the solvent in the rotary evaporator left 130-145 g of a crystalline residue. To this was added one liter of hexane and the suspension stirred vigorously until the aggregates had been dispersed; any material adhering to the walls was scraped off. The yellow cyrstalline precipitate was recovered by filtration, washed twice with sufficient hexane to cover the filter cake, then dried in vacuo first at 12-15 mm (water pump), then at 0.5 mm until the weight was constant. The yield of product was 119-123 g, m.p. 127.5°-129.5° C.

reactant | 9-(4-methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-2,4,6,8-nonatetraenoic acid ethyl ester | 0.436 moles, 150 g | C(C)OC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C)C)=O | C23H30O3
reactant | diisobutylaluminum | C(C(C)C)[Al]CC(C)C
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | aluminum hydroxide | [OH-].[Al+3].[OH-].[OH-]
solvent | methanol | CO | CH4O
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.155 moles | C1(=CC=CC=C1)C | C7H8
product | 9-(4-Methoxy-2,3,6-Trimethylphenyl)-3,7-Dimethyl-2,4,6,8-Nona-tetraen-1-ol | COC1=C(C(=C(C(=C1)C)C=CC(=CC=CC(=CCO)C)C)C)C | C21H28O2
